### PR TITLE
Add Erdős Problem 574 (extremal numbers of consecutive cycles), linked to the formal disproof

### LINKED ISSUE #803: Erdős Problem 574
### What is the conjecture
    
https://www.erdosproblems.com/574

  Is it true that, for $k\geq 2$,
$$\mathrm{ex}(n;\\{C_{2k-1},C_{2k}\\})=(1+o(1))(n/2)^{1+\frac{1}{k}}.$$
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #803.

### What changed
Adds `FormalConjectures/ErdosProblems/574.lean` with `consecutiveCycleExtremalNumber k n` (`ex(n; {C_{2k-1}, C_{2k}})`) and `erdos_574` (`research solved`, `answer(False)`): the Erdős–Simonovits conjecture `ex(n; {C_{2k-1}, C_{2k}}) = (1 + o(1)) (n/2)^{1 + 1/k}` for all `k ≥ 2`, disproved by Lazebnik–Ustimenko–Woldar (`k = 3, 5`) and Füredi–Naor–Verstraëte (`k = 3`). Linked to plby/lean-proofs `Erdos574.not_erdos_574` (Codex and GPT-5.6 Sol), the negation of our statement with the auxiliary predicate inlined.

### How checked
- Rebuilt the closure (7 Mathlib-only files) against this repo's Mathlib: `#print axioms Erdos574.not_erdos_574` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy (the extremal numbers agree after `ext`/`simp` on the filter predicate), same axioms:

```lean
theorem ext_eq (k n : ℕ) : Erdos574.consecutiveCycleExtremalNumber k n =
    Erdos574Plby.consecutiveCycleExtremalNumber k n := by
  classical
  unfold Erdos574.consecutiveCycleExtremalNumber Erdos574Plby.consecutiveCycleExtremalNumber
  congr 1
  ext G
  simp [Erdos574Plby.FreeConsecutiveCycles]

theorem erdos_574_bridge : type_of% Erdos574.erdos_574 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos574Plby.not_erdos_574
  intro k hk
  have := h k hk
  simp only [ext_eq] at this
  exact this
```

- `lake --wfail build FormalConjectures.ErdosProblems.«574»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/574.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+
+namespace Erdos574
+
+/-- The extremal number `ex(n; {C_{2k-1}, C_{2k}})`: the maximum number of edges of a graph on `n`
+vertices containing neither a cycle of length `2k - 1` nor a cycle of length `2k`. -/
+noncomputable def consecutiveCycleExtremalNumber (k n : ℕ) : ℕ := by
+  classical
+  exact Finset.sup {G : SimpleGraph (Fin n) |
+    (SimpleGraph.cycleGraph (2 * k - 1)).Free G ∧ (SimpleGraph.cycleGraph (2 * k)).Free G}
+    fun G ↦ G.edgeFinset.card
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/574.lean:46]: is there an overlap with the defs in https://github.com/google-deepmind/formal-conjectures/blob/e75502b6b4ce309a0e41e255607ca0c80ff455b2/FormalConjectures/ErdosProblems/180.lean? in that case let's unify those and move to ForMathlib
